US03989741
A 1 liter flask was charged with a mixture of 69.5 grams (0.25 mole) of 4-(3,5-di-t-butyl-4-hydroxyphenyl) butane-2-ol, 350 milliliters of methyl methacrylate, 0.5 gram of hydroquinone and 5 grams of tetraisopropyl titanate as the catalyst. The mixture was heated to reflux and a methanolmethylmethacrylate azeotrope slowly distilled off over a 3.5 hour period. The reaction flask was cooled slightly and 25 milliliters of water was added dropwise to hydrolyze the catalyst. The reaction mixture was allowed to cool to room temperature. The mixture was stirred 15 minutes longer and then filtered through diatomaceous earth. One hundred milliliters of hexane was added to the filtrate which separated into organic and inorganic phases. The organic phase containing the product in hexane was separated and dried over magnesium sulfate. The hexane was evaporated to obtain 82 grams (95 percent) of 4-(3,5-di-t-butyl-4-hydroxyphenyl)-2-butyl methacrylate. The boiling point of this compound was 150° to 155° C at 0.15 milliliters of mercury pressure.

reactant | 4-(3,5-di-t-butyl-4-hydroxyphenyl) butane-2-ol | 0.25 mole, 69.5 grams | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(C)O | C18H30O2
reactant | hydroquinone | 0.5 gram | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | methyl methacrylate | 350 milliliters | C(C(=C)C)(=O)OC | C5H8O2
catalyst | tetraisopropyl titanate | 5 grams | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 4-(3,5-di-t-butyl-4-hydroxyphenyl)-2-butyl methacrylate | 82 grams, 95 percent | C(C(=C)C)(=O)OC(C)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H34O3
